US08754053B2
414 mg of 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid ethyl ester (VIIIa) and 152 mg of sodium borohydride were suspended in 10 ml tetrahydrofurane. The mixture was heated to 60° C. and 0.85 ml of methanol was the added dropwise under vigorous stirring. The mixture was stirred at 60° C. until the gas evolution subsided. The mixture was then cooled and ice water followed by diethylether were added. Then a solution of hydrochloric acid (1N) was slowly added to acidify the solution. The organic phase was washed with water and dried. Evaporation of the solvent afforded {4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-phenyl}-methanol as a solidified foam in 98% yield. 1H-NMR (CDCl3, δ in ppm): 7.28-7.45 (m, 6H), 5.34 (s, 1H), 4.72 (s, 2H), 2.99 (s, 3H), 2.35 (s, 3H).

reactant | 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid ethyl ester | 414 mg | C(C)OC(C1=C(C=C(C=C1)C=1N(OC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)C)=O | C21H18Cl2F3NO3
reactant | sodium borohydride | 152 mg | [BH4-].[Na+]
reactant | methanol | 0.85 ml | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | {4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-phenyl}-methanol | 98% yield | ClC=1C=C(C=C(C1)Cl)C1(C=C(N(O1)C)C1=CC(=C(C=C1)CO)C)C(F)(F)F | C19H16Cl2F3NO2
